US05663395
19.6 g (0.4 mol) of NaCN in 160 ml of water are introduced into a 500 ml three-necked flask equipment with a magnetic stirrer, reflux condenser and dropping funnel and heated to 90° C. Once this temperature has been reached, a mixture of 107.8 g (0.2 mol) of bis(triethoxysilylpropyl)tetrasulphane, 120 ml of toluene and 5 g of phase transfer catalyst Aliquat 336 is added dropwise within 45 minutes. Once addition is complete, the mixture is stirred for a further 2 hours at this temperature, cooled and 12.4 g of insoluble material is finally filtered out. The organic and aqueous phases of the filtrate are separated and the organic phase evaporated under a vacuum. 90.4 g (0.19 mol) of pure bis(triethoxysilylpropyl)disulphane are obtained (verified by 1H-NMR spectroscopy).

reactant | NaCN | 0.4 mol, 19.6 g | [C-]#N.[Na+]
reactant | bis(triethoxysilylpropyl)tetrasulphane | 0.2 mol, 107.8 g | C(C)O[Si](OCC)(OCC)CCCSSSSCCC[Si](OCC)(OCC)OCC | C18H42O6S4Si2
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 160 ml | O | H2O
catalyst | Aliquat 336 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | bis(triethoxysilylpropyl)disulphane | 0.19 mol, 90.4 g | C(C)O[Si](OCC)(OCC)CCCSSCCC[Si](OCC)(OCC)OCC | C18H42O6S2Si2
